US09028976B2
An amount of 4.68 g (11.4 mmol) of 2-bromo-9,10-diphenylanthracene was dissolved in dehydrated THF and cooled to −80° C. An amount of 7.9 ml (12 mmol) of a solution of n butyllithium in n hexane was added dropwise and, 40 minutes later, 3.33 g (22.8 mmol) of triethyl borate was further added. After two-hour reaction, a dilute hydrochloric acid solution was added and the mixture was allowed to stand for 12 hours. Then, the separated organic layer was recrystallized to obtain 3.07 g (8.2 mmol) of 9,10-diphenylanthracene-2-boronic acid. The yield was 72%.

reactant | 2-bromo-9,10-diphenylanthracene | 11.4 mmol, 4.68 g | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Br
reactant | butyllithium | C(CCC)[Li]
reactant | triethyl borate | 22.8 mmol, 3.33 g | B(OCC)(OCC)OCC | C6H15BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 9,10-diphenylanthracene-2-boronic acid | 8.2 mmol, 3.07 g, yield was 72% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
